US09302274B2
Preparation of tripropylammonium N,N-diethyl dithiocarbamate
Preparation of tripropylammonium salt of diethyl dithiocarbamateis as follows: 76 grams (1 mole) carbon disulfide and 143 grams (1 mole) tripropylamine are mixed at 10° C. under nitrogen. 80.5 grams (1.1 mole) diethylamine is added slowly and drop wise to the mixture and the mixture is maintained at a temperature below 30° C. Then the mixture is heated to 50° C. for 1 hour. The solution is then stripped out under vacuum to remove the excess amine and for the removal of low volatiles to obtain final product. The acid number (normally below 30) is measured to check the acidity. The product purity (ranging between 85-95%) is measured by LC-MS and NMR.

reactant | tripropylammonium | C(CC)[NH+](CCC)CCC
reactant | carbon disulfide | 1 mole, 76 grams | C(=S)=S | CS2
reactant | tripropylamine | 1 mole, 143 grams | C(CC)N(CCC)CCC | C9H21N
reactant | diethylamine | 1.1 mole, 80.5 grams | C(C)NCC | C4H11N
product | tripropylammonium N,N-diethyl dithiocarbamate | C(C)N(C([S-])=S)CC.C(CC)[NH+](CCC)CCC | InChI=1S/C9H21N.C5H11NS2/c1-4-7-10(8-5-2)9-6-3;1-3-6(4-2)5(7)8/h4-9H2,1-3H3;3-4H2,1-2H3,(H,7,8)
